US07196111B2
A mixture of 250 mg (1.09 mmol) of 4-bromo-3-methyl-benzoic acid methyl ester, 204 mg (1.31 mmol) of 4-chlorophenylboronic acid, 1.06 g (3.27 mmol) of cesium carbonate (Cs2CO3) and PdCl2(dppf) catalyst (5 mol %) was flushed with argon. To this mixture was added 3 mL of 1,4-dioxane and the reaction mixture was heated to 80° C. overnight. The mixture was then cooled to rt, and filtered through a pad of Celite while rinsing the pad with ethyl acetate. The filtrate was washed with brine, dried over sodium sulfate and concentrated to give a residue which was chromatographed on silica gel (5% ethyl acetate in hexane) to afford 191 mg (67%) of desired 4′-chloro-2-methyl-biphenyl-4-carboxylic acid methyl ester, as an oil as indicated by 1H NMR; LC-MS calcd for C15H13ClO2 [M++H]+: 261.07, found: 261.1.

reactant | 4-bromo-3-methyl-benzoic acid methyl ester | 1.09 mmol, 250 mg | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | 4-chlorophenylboronic acid | 1.31 mmol, 204 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | cesium carbonate | 3.27 mmol, 1.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-chloro-2-methyl-biphenyl-4-carboxylic acid methyl ester | 191 mg, 67% | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)C | C15H13ClO2
